US04145546
3-Fluoro-2-methyl-4-nitropyridine N-oxide is treated with an excess of sodium methoxide and the product is heated in acetic anhydride and deacetylated to give 2-hydroxymethyl-3,4-dimethoxypyridine. 2-Hydroxymethyl-3,4-dimethoxypyridine is treated with thionyl chloride and the product is treated was cysteamine to give 2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamine.

reactant | 2-Hydroxymethyl-3,4-dimethoxypyridine | OCC1=NC=CC(=C1OC)OC | C8H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | cysteamine | NCCS | C2H7NS
product | 2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamine | COC=1C(=NC=CC1OC)CSCCN | C10H16N2O2S
